US06365736B1
C) 6-(Imidazol-1-yl)-7-nitro-2-methyl-1,4-benzoxazin-3-one
485 mg of 6-chloro-7-nitro-2-methyl-1,4-benzoxazin-3-one is stirred with 136 mg of imidazole and 332 mg of potassium carbonate in 15 ml of DMF with the addition of copper powder for 6 hours at 180° C. It is diluted with ethyl acetate, extracted with brine, and the organic phase is dried. The crude product is purified by column chromatography with ethyl acetate with the addition of ethanol. 88 mg results.

reactant | 6-chloro-7-nitro-2-methyl-1,4-benzoxazin-3-one | 485 mg | ClC=1C(=CC2=C(NC(C(O2)C)=O)C1)[N+](=O)[O-] | C9H7ClN2O4
reactant | imidazole | 136 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 332 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper | [Cu] | Cu
product | 6-(Imidazol-1-yl)-7-nitro-2-methyl-1,4-benzoxazin-3-one | N1(C=NC=C1)C=1C(=CC2=C(NC(C(O2)C)=O)C1)[N+](=O)[O-] | C12H10N4O4
